US05420270
6-Hydroxynicotinic acid (31 g) and methylene bromide (300 mL) were added at 18° C. to 98.9 g of phosphorous pentabromide while stirring with a mechanical stirrer under an argon atmosphere. The mixture was warmed to 70° C. over 2 hours, and further stirred for 16 hours. The mixture was cooled to 10° C. and 300 mL of methanol (CAUTION: EXOTHERMIC) was added. The cooling bath was removed and stirring was continued for 1/2 hour more. A solution of 76 g of K2CO3 in 610 mL of water was added and stirred for a few minutes. The layers were separated. The aqueous layer was extracted with methylene bromide. The combined organic phase was filtered through celite, washed with water and stripped. The residue was dissolved in 200 mL of ethanol on the steam bath. To this hot solution, 400 mL of water was added and the mixture was cooled in an ice bath. The precipitated solid was filtered, washed with 20% ethanol in water and air-dried to give 38.3 g of methyl 6-bromo-nicotinate as a solid.

reactant | 6-Hydroxynicotinic acid | 31 g | OC1=NC=C(C(=O)O)C=C1 | C6H5NO3
reactant | methylene bromide | 300 mL | C(Br)Br | CH2Br2
reactant | methanol | 300 mL | CO | CH4O
product | methyl 6-bromo-nicotinate | 38.3 g | BrC1=NC=C(C(=O)OC)C=C1 | C7H6BrNO2
